US07465795B2
4-amino-7-fluoro-8-(2-fluoro-4-methoxyphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide (250.0 mg, 0.67 mmol) and (2-fluoro-4-methoxyphenyl)boronic acid (227.1 mg, 1.336 mmol) were reacted to afford the title compound (165.4 mg, 67% yield) as a white solid. 1H NMR (500 MHz, CDCl3) δ 8.51 (bs, 1H), 7.90 (d×d, J=5.5 Hz, J=9.2 Hz, 1H), 7.53 (apparent triplet, J=8.9 Hz, 1H), 7.41 (t, J=8.5 Hz, 1H), 6.86 (d×d, J=2.4 Hz, J=8.5 Hz, 1H), 6.80 (d×d, J=2.4 Hz, J=11.6 Hz, 1H), 3.87 (s, 3H), 3.44 (q, J=6.7 Hz, J=12.8 Hz, 2H), 1.65 (apparent sextet, J=7.3 Hz, 2H), 1.00 (t, J=7.3 Hz, 3H). MS APCI, m/z=373 (M+H) HPLC 2.78 min.

reactant | 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.67 mmol, 250.0 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | (2-fluoro-4-methoxyphenyl)boronic acid | 1.336 mmol, 227.1 mg | FC1=C(C=CC(=C1)OC)B(O)O | C7H8BFO3
product | 4-amino-7-fluoro-8-(2-fluoro-4-methoxyphenyl)-N-propyl-cinnoline-3-carboxamide | 165.4 mg, 67% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=C(C=C1)OC)F)C(=O)NCCC | C19H18F2N4O2
